US06458772B1
a) 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethylbutan-1-ol
To a cooled solution of 2-ethyl-2-hydroxymethyl-butan-1-ol (33.1 g, 250 mmole), 4-dimethylaminopyridine (1.22 g, 10 mmole) and N-benzyloxycarbonyl-L-valine (12.6 g, 50 mmole) in 350 ml dichloromethane was added dropwise a solution of dicyclohexyl-carbodiimide (12.4 g, 60 mmole) in 50 ml dichloromethane. The mixture was stirred 2 days at room temperature and cooled. The urethane was filtered and the solution evaporated under reduced pressure. 350 ml ethyl acetate was added and the organic phase was washed twice with 5% acetic acid, 5% sodium-hydrogencarbonate and water. The organic phase was dried with sodium sulfat and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with dichloromethane/methanol. Yield 16.4 g=90%.

reactant | 2-ethyl-2-hydroxymethyl-butan-1-ol | 250 mmole, 33.1 g | C(C)C(CO)(CC)CO | C7H16O2
reactant | N-benzyloxycarbonyl-L-valine | 50 mmole, 12.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | dicyclohexyl-carbodiimide | 60 mmole, 12.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 10 mmole, 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethylbutan-1-ol | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(CO)(CC)CC | C20H31NO5
